US05223498
A mixture of 1-benzoyl-3-[2-(2-methyl-1-pyrrolidinyl)phenyl]thiourea (9 g), sodium hydroxide (1 g, as pellets) and water (10 ml) was heated at 90°-95° C. for 48 hours to give 1-[2-(2-methyl-1-pyrrolidinyl)phenyl]thiourea (m.p. 145°-148° C.) which was purified by column chromatography on silica gel using a 1:1 mixture of ethylacetate and hexane as eluant.

reactant | 1-benzoyl-3-[2-(2-methyl-1-pyrrolidinyl)phenyl]thiourea | 9 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC=C1)N1C(CCC1)C | C19H21N3OS
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-[2-(2-methyl-1-pyrrolidinyl)phenyl]thiourea | CC1N(CCC1)C1=C(C=CC=C1)NC(=S)N | C12H17N3S
